US06440995B1
A solution of malonic acid monoethyl ester (3.8 g, 29 mmol) in THF (80 ml) was cooled to −78° C. n-BuLi (36 ml, 58 mmol, 1.6 M in hexane) was added dropwise so that the temperature of the reaction mixture at the end the addition was −5° C. After 5 min. stirring at −5° C., reaction mixture was cooled to −65° C. and treated with a solution of (RS)-1,2,3,4-tetrahydro-naphthalene-2-carbonyl chloride (3.2 g, 16.5 mmol) in THF. Mixture was stirred for 10 min. at −65° C. and then added to a stirring mixture containing Et2O (200 ml) and 1N HCl (100 ml). Aqueous phase was extracted with Et2O (2×150 ml). Combined organic phases were washed successively with a saturated solution of NaHCO3 (100 ml) and NaCl (100 ml), dried over Na2SO4 and concentrated to provide (RS)-3-oxo-3-(1,2,3,4-tetrahydro-naphthalen-2-yl)-propionic acid ethyl ester (3.8 g, 93%) as a light brown oil, MS: m/e=246 (M+).

reactant | malonic acid monoethyl ester | 29 mmol, 3.8 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | n-BuLi | 58 mmol, 1.6 M, 36 ml | [Li]CCCC
reactant | (RS)-1,2,3,4-tetrahydro-naphthalene-2-carbonyl chloride | 16.5 mmol, 3.2 g | C1C(CCC2=CC=CC=C12)C(=O)Cl | C11H11ClO
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | Et2O | 200 ml | CCOCC | C4H10O
product | (RS)-3-oxo-3-(1,2,3,4-tetrahydro-naphthalen-2-yl)-propionic acid ethyl ester | 3.8 g, 93% | C(C)OC(CC(C1CC2=CC=CC=C2CC1)=O)=O | C15H18O3
